US05306692
3-chloro-6-nitroindazole (20 g) was dissolved in dry DMF (180cm3) and the solution cooled to 5° C. 50% sodium hydride (4.86 g) was added portionwise with stirring and cooling between 5° and 10° C. and then for an additional 15 minutes. Ethyl bromoacetate (16.91 g) was added slowly at 5° C., the reaction mixture warming to 30° C. The reaction mixture was then stirred at 20° C. for four hours. Water (lL) was added and the mixture acidified with diluted hydrochloric acid, shaken with ethyl acetate and filtered through hyflo. The organic phase was separated from the filtrate and the aqueous phase extracted (×2) with ethyl acetate. The combined organic phase was washed with water, dried (MgSO4) filtered and the solvent removed from the filtrate under vacuum. The residue was purified by flash chromatography (SiO2 ; hexane: TBME, 7:3 and then chloroform:ethyl acetate 95:5) to give ethyl 3-chloro-6-nitroindazol-1-ylacetate (16.25 g) as a pale yellow solid m.pt 109.1°-110.3° C.

reactant | 3-chloro-6-nitroindazole | 20 g | ClC1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C7H4ClN3O2
reactant | sodium hydride | 4.86 g | [H-].[Na+]
reactant | Ethyl bromoacetate | 16.91 g | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 180cm3 | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | ethyl 3-chloro-6-nitroindazol-1-ylacetate | 16.25 g | ClC1=NN(C2=CC(=CC=C12)[N+](=O)[O-])CC(=O)OCC | C11H10ClN3O4
